US05114960
2 g of methyl 3-(4-chlorophenyl)-7-methyl-5,6,7,8-tetrahydro-4H-cyclohept[d]isoxazole-7-carboxylate were treated with 0.5 g of potassium hydroxide in 2 ml of water and 20 ml of methanol at 20° C. for 16 hours. After working-up as described in Example 5 and crystallization from glacial acetic acid, there was obtained 0.9 g of 3-(4-chlorophenyl)-7-methyl-5,6,7,8-tetrahydro-4H-cyclohept[d]isoxazole-7-carboxylic acid of melting point 232°-235° C.

reactant | methyl 3-(4-chlorophenyl)-7-methyl-5,6,7,8-tetrahydro-4H-cyclohept[d]isoxazole-7-carboxylate | 2 g | ClC1=CC=C(C=C1)C1=NOC2=C1CCCC(C2)(C(=O)OC)C | C17H18ClNO3
reactant | potassium hydroxide | 0.5 g | [OH-].[K+]
solvent | water | 2 ml | O | H2O
solvent | methanol | 20 ml | CO | CH4O
product | 3-(4-chlorophenyl)-7-methyl-5,6,7,8-tetrahydro-4H-cyclohept[d]isoxazole-7-carboxylic acid | 0.9 g | ClC1=CC=C(C=C1)C1=NOC2=C1CCCC(C2)(C(=O)O)C | C16H16ClNO3
